US08314087B2
(S)-6-(4-(1-Amino-2,2,2-trifluoroethyl)-3-chlorophenyl)-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one
A solution of (R)—N—((S)-1-(2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)phenyl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide (170 mg, 279 μmol) in MeOH (4 mL) was stirred with 5 N HCl (4 mL) at 23° C. for 18 hours. The solvents were then largely removed under reduced pressure and residue partitioned between 9:1 CHCl3/IPA (20 mL) and aqueous pH adjusted to 14 with NaOH (5 M, 4 mL). The aqueous layer was further extracted with 9:1 CHCl3/IPA (2×10 mL). The combined organics were then dried over MgSO4, concentrated, and purified on silica (12 g) eluting with 0>5% NH3 in MeOH (2 M)/DCM. Product was isolated as a white fluffy solid from lyophilized 50% ACN/water. MS (ESI pos. ion) m/z: 506 (MH+); calc'd for C24H20ClF3N4O3: 505. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.93 (s, 3 H) 4.74 (t, J=4.27 Hz, 2 H) 4.92 (t, J=4.52 Hz, 2 H) 5.18 (q, J=7.36 Hz, 1 H) 7.14 (d, J=10.04 Hz, 1 H) 7.21-7.28 (m, 1 H) 7.40 (d, J=6.53 Hz, 1 H) 7.49 (s, 1 H) 7.87-7.96 (m, 3 H) 8.05 (d, J=9.03 Hz, 1 H) 8.14 (d, J=10.04 Hz, 1 H) 8.97 (d, J=6.02 Hz, 1 H). 13C NMR (101 MHz, DMSO-d6) δ ppm 48.21, 54.49, 66.32, 99.81, 113.27, 118.38, 122.46, 123.30, 124.68, 128.27, 128.39, 129.30, 132.34, 134.84, 140.24, 145.85, 157.66, 161.35 19F NMR (376 MHz, DMSO-d6) δ ppm −73.63 (s, 3 F).

reactant | (R)—N—((S)-1-(2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)phenyl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide | 279 μmol, 170 mg | ClC1=C(C=CC(=C1)C1=NN(C(C=C1)=O)CCOC1=CC=NC2=CC(=CC=C12)OC)[C@@H](C(F)(F)F)N[S@](=O)C(C)(C)C | C28H28ClF3N4O4S
reactant | HCl | 5 N, 4 mL | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
product | (S)-6-(4-(1-Amino-2,2,2-trifluoroethyl)-3-chlorophenyl)-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one | N[C@H](C(F)(F)F)C1=C(C=C(C=C1)C=1C=CC(N(N1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O)Cl | C24H20ClF3N4O3
